US08877782B2
(3-Hydroxy-pyrrolidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 220, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (120 mg, 0.37 mmol) was converted, using 3-pyrrolidinol instead of 3-amino-1-propanol, to the title compound (122 mg, 87%) which was obtained as a colourless oil. MS: m/e=380.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.37 mmol, 120 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
reactant | 3-pyrrolidinol | N1CC(CC1)O | C4H9NO
product | (3-Hydroxy-pyrrolidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 122 mg, 87% | OC1CN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C21H21N3O4
